US04678781
The starting material was prepared by reaction of 1-bromoisoquinoline in concentrated H2SO4 at 0° with KNO3. The reaction mixture was worked up with water, NaHCO3 and EtOAc to give 1-bromo-5-nitro isoquinoline, m.p. 187°-8°. Reaction of this compound with trimethyloxonium tetrafluoroborate in CH2Cl2 gave impure 1-bromo-2-methyl-5-nitroisoquinolinium tetrafluoroborate which was used as such. n.m.r in solvent A: 3.5(s, 3H); 7.7-8.7(m, 5H).

reactant | 1-bromoisoquinoline | BrC1=NC=CC2=CC=CC=C12 | C9H6BrN
reactant | KNO3 | [N+](=O)([O-])[O-].[K+]
reactant | water | O | H2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-bromo-5-nitro isoquinoline | BrC1=NC=CC2=C(C=CC=C12)[N+](=O)[O-] | C9H5BrN2O2
